US09217005B2
Production of 4-(4,5-dimethylcyclohexa-1,4-dienyl)butan-1-ol
800 mg (2.00 mmol) of 1,2-bis(diphenylphosphino)ethane, 437 mg (2.00 mmol) of cobalt bromide, 1.28 g (4.00 mmol) of zinc iodide, and 260 mg (4.00 mmol) of zinc were added to 40 ml of THF, and the solution was stirred for 15 minutes at 70° C. The solution was cooled to room temperature, and 9.86 g (120 mmol) of 2,3-dimethyl-1,3-butadiene was added thereto. Subsequently, 9.8 g (100 mmol) of 5-hexyn-1-ol was slowly added dropwise to the mixture in a water bath. The resulting mixture was stirred for one hour at 35° C., and then the solvent was distilled off under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane/ethyl acetate=3/1), and thus 11.5 g of the title compound alcohol was obtained as a colorless oil. Yield 63.4%.

reactant | 2,3-dimethyl-1,3-butadiene | 120 mmol, 9.86 g | CC(=C)C(=C)C | C6H10
reactant | 5-hexyn-1-ol | 100 mmol, 9.8 g | C(CCCC#C)O | C6H10O
catalyst | cobalt bromide | 2.00 mmol, 437 mg | [Co](Br)Br
catalyst | zinc iodide | 4.00 mmol, 1.28 g | [I-].[Zn+2].[I-]
catalyst | zinc | 4.00 mmol, 260 mg | [Zn] | Zn
catalyst | 1,2-bis(diphenylphosphino)ethane | 2.00 mmol, 800 mg | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-(4,5-dimethylcyclohexa-1,4-dienyl)butan-1-ol | 11.5 g, Yield 63.4% | CC=1CC=C(CC1C)CCCCO | C12H20O
